US08008298B2
A solution of 3-amino-5-bromo-phenol (3.0 g, 15.96 mmol) in dry DMF (35 ml) was cooled (ice bath) under nitrogen. Sodium hydride (732 g, 18.36 mmol, 60% in oil) was added in 2 equal portions over 5 minutes. After 10 minutes stirring the material was warmed to ambient. Chloromethylmethyl ether (1.38 ml, 18.4 mmol) was added slowly, via syringe. The material was stirred for 2 hours. The solvent was stripped (rotovap/pump) providing a crude remainder which was treated with a solution of saturated aqueous NH4Cl (25 ml), water (35 ml) and ethyl acetate (60 ml). The material was shaken in a reparatory funnel and the organic phase was collected and washed with an equal volume of brine. The aqueous phases were back extracted with ethyl acetate (2×50 ml) and the organics combined, dried (MgSO4), filtered and stripped to provide a viscous oil. The crude was purified by silica gel chromatography using 4%-30% EtOAc in hexanes as eluant to provide 3.50 g of 3-bromo-5-methoxymethoxy-phenylamine as a light yellow mobile oil.

reactant | 3-amino-5-bromo-phenol | 15.96 mmol, 3.0 g | NC=1C=C(C=C(C1)Br)O | C6H6BrNO
reactant | Sodium hydride | 18.36 mmol, 732 g | [H-].[Na+]
reactant | Chloromethylmethyl ether | 18.4 mmol, 1.38 ml | ClCOC | C2H5ClO
reactant | NH4Cl | 25 ml | [NH4+].[Cl-]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 35 ml | O | H2O
product | 3-bromo-5-methoxymethoxy-phenylamine | 3.50 g | BrC=1C=C(C=C(C1)OCOC)N | C8H10BrNO2
